US04714774
To a solution of 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3-chlorobenzoic acid (1.0 g), which was prepared by the manner described in European Patent Application Publication No. 80,371, triethylamine (4.6 ml), 4-dimethylaminopyridine (8 mg) and dichloromethane (6 ml) was added acetic anhydride (3.1 ml) at 5° to 7° C., and the mixture was stirred well for 80 minutes. To the reaction mixture was added dropwise methanol (5 ml) to decompose the excess amount of acetic anhydride. The mixture was subjected to concentration, the residual oily product was poured into ice-water, and the precipitate was collected by filtration. Recrystallization from ethanol-water gave white crystals of 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-chlorobenzoic acid 975 mg). M.p. 146°-148° C.

reactant | 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3-chlorobenzoic acid | 1.0 g | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C(=O)O)C=C2)Cl)C=C1)CCC)O | C21H23ClO6
reactant | triethylamine | 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 6 ml | ClCCl | CH2Cl2
reactant | acetic anhydride | 3.1 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 8 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol | 5 ml | CO | CH4O
product | 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-chlorobenzoic acid | 975 mg | C(C)(=O)OC=1C(=C(OCCCOC2=C(C=C(C(=O)O)C=C2)Cl)C=CC1C(C)=O)CCC | C23H25ClO7
